US04952397
1-(2-mercaptoethyl)-4-(2-sulfoethyl)pyridinium hydroxide inner salt
A solution of silver nitrate (1.84 g, 10.6 mmol) in water (5 ml) was added to a stirred aqueous solution (20 ml) of 4-pyridine ethane sulfonic acid (2.00 g, 10.6 mmol) which had been adjusted to pH 7 by the addition of aqueous 2.5N sodium hydroxide (3.0 ml). The solution was cooled in an ice-water bath and ethylene sulfide (0.71 ml, 11.8 mmol) added. The resulting mixture was let stand 45 minutes at ice-bath temperature and the upper clear phase decanted. The gummy solid was mixed with water (20 ml) and vigorously bubbled with hydrogen sulfide for 15 minutes. After stirring an additional 20 minutes, the mixture was filtered through a celite pad to remove silver sulfide and the filtrate was evaporated under vacuum to provide crude title compound as a white semi-solid (1.00 g).

reactant | 4-pyridine ethane sulfonic acid | 10.6 mmol, 20 ml, 2.00 g | N1=CC=C(C=C1)CCS(=O)(=O)O | C7H9NO3S
reactant | sodium hydroxide | 2.5N, 3.0 ml | [OH-].[Na+]
reactant | ethylene sulfide | 11.8 mmol, 0.71 ml | C1CS1 | C2H4S
solvent | water | 5 ml | O | H2O
catalyst | silver nitrate | 10.6 mmol, 1.84 g | [N+](=O)([O-])[O-].[Ag+]
product | 1-(2-mercaptoethyl)-4-(2-sulfoethyl)pyridinium hydroxide | 1.00 g | [OH-].SCC[N+]1=CC=C(C=C1)CCS(=O)(=O)O | InChI=1S/C9H13NO3S2.H2O/c11-15(12,13)8-3-9-1-4-10(5-2-9)6-7-14;/h1-2,4-5H,3,6-8H2,(H-,11,12,13,14);1H2
